US04424213
A slurry of 33.0 g (0.218 m) of 4-(methylamino)benzoic acid and 4.0 g of 5% rhodium on alumina catalyst in 350 ml of water was shaken under 1500 psig of hydrogen for 24 hours. The insolubles were removed by filtration. The slurry from partial removal of water under reduced pressure was diluted with 300 ml of N,N-dimethylformamide and chilled. The precipitated solid was filtered, washed with several portions of cold acetone, and dried to yield 23 g (75%) of 4-(methylamino)cyclohexanecarboxylic acid.

reactant | 4-(methylamino)benzoic acid | 33.0 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on alumina | 4.0 g | [Rh] | Rh
solvent | water | 350 ml | O | H2O
product | 4-(methylamino)cyclohexanecarboxylic acid | 23 g, 75% | CNC1CCC(CC1)C(=O)O | C8H15NO2
